US08669234B2
This compound was prepared using the procedure used to prepare [1-(6-{5-[6-(4-{2-[2-(2-Methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-5-aza-spiro[2.4]heptane-5-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester using [2-Methyl-1-(2-{5-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (0.177 g, 0.324 mmol) and (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-methylene-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (0.100 g, 0.216 mmol). Potassium phosphate (aqueous, 0.32 mL, 0.648 mmol) was substituted for potassium carbonate and the reaction was performed under an argon atmosphere. The crude reaction was purified by reverse phase HPLC (10-45% acetonitrile: water; 0.1% formic acid modifier), and lyophilized giving [1-(2-{5-[6-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-4-methylene pyrrolidin-2-yl]-3H -imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (0.009 g, 5%) as a white solid.

reactant | [1-(6-{5-[6-(4-{2-[2-(2-Methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-5-aza-spiro[2.4]heptane-5-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(C2CCC1C2)C(C(C(C)C)NC(=O)OC)=O)=O | C48H56N8O6
reactant | [2-Methyl-1-(2-{5-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.324 mmol, 0.177 g | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)B1OC(C(O1)(C)C)(C)C)=O | C30H39BN4O5
reactant | (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-methylene-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.216 mmol, 0.100 g | COC(NC(C(C)C)C(=O)N1C(CC(C1)=C)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C21H25BrN4O3
reactant | Potassium phosphate | 0.648 mmol, 0.32 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | [1-(2-{5-[6-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-4-methylene pyrrolidin-2-yl]-3H -imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 0.009 g, 5% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CC(C1)=C)C(C(C(C)C)NC(=O)OC)=O)=O | C45H52N8O6
